US07595327B2
According to the procedure of example 17, Step 5, the reaction of 113.5 mg of cis-1-acetyl-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylic acid with hydroxylamine provided 39 mg (41% yield) of cis-1-acetyl-N-hydroxy-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxamide. MS: 499.2 (M+H)+

reactant | cis-1-acetyl-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylic acid | 113.5 mg | C(C)(=O)N1C[C@H]([C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)O | C24H25N3O6S
reactant | hydroxylamine | NO | H3NO
product | cis-1-acetyl-N-hydroxy-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxamide | 39 mg, 41% yield | C(C)(=O)N1C[C@H]([C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)NO | C24H26N4O6S
